US05009701
At 0° to 5° C., 11.5 g (0.10 mol) of N-methylhexylamine in 100 ml of tetrahydrofuran was added to a solution of 12.3 g (0.05 mol) of 2-chloro5-nitrocinnamyl chloride in 40 ml of tetrahydrofuran. After the mixture had been stirred for 2 hours, the solvent was removed, and the residue thus obtained was dissolved in ethyl acetate and extracted with 5% strength sodium hydroxide solution. The organic phase was washed with water, followed by separation and drying, to give 13.3 g (81% of theory) of 2-chloro-5-nitrocinnamic acid-N-methyl-N-hexylamide.

reactant | N-methylhexylamine | 0.10 mol, 11.5 g | CNCCCCCC | C7H17N
reactant | 2-chloro5-nitrocinnamyl chloride | 0.05 mol, 12.3 g | ClC1=C(C=CCCl)C=C(C=C1)[N+](=O)[O-] | C9H7Cl2NO2
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-chloro-5-nitrocinnamic acid-N-methyl-N-hexylamide | 13.3 g, 81% | CN(C(C=CC1=C(C=CC(=C1)[N+](=O)[O-])Cl)=O)CCCCCC | C16H21ClN2O3
